US07795437B2
26.5 Cyclobutanecarboxylic acid (4-{2-[4-(2-cyano-4-fluoro-phenoxy)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide
The title compound was prepared analogously to example 1 (1.5) from Trans 2-{1-[2-(4-Amino-cyclohexyl)-ethyl]-piperidin-4-yloxy}-5-fluoro-benzonitrile; trifluoro-acetic acid salt and cyclobutanecarboxylic acid using 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyl uronium tetrafluoroborate and N-ethyldiisopropylamine in dimethylformamide (DMF). The residue was taken up on methanol and purified with preparative HPLC on reversed phase eluting with acetonitrile/water. MS (m/e): 428.0. (M+H+).

reactant | Trans 2-{1-[2-(4-Amino-cyclohexyl)-ethyl]-piperidin-4-yloxy}-5-fluoro-benzonitrile | N[C@@H]1CC[C@H](CC1)CCN1CCC(CC1)OC1=C(C#N)C=C(C=C1)F | C20H28FN3O
reactant | trifluoro-acetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | cyclobutanecarboxylic acid | C1(CCC1)C(=O)O | C5H8O2
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyl uronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Cyclobutanecarboxylic acid (4-{2-[4-(2-cyano-4-fluoro-phenoxy)-piperidin-1-yl]-ethyl}-cyclohexyl)-amide | C(#N)C1=C(OC2CCN(CC2)CCC2CCC(CC2)NC(=O)C2CCC2)C=CC(=C1)F | C25H34FN3O2
